US06194406B1
Combine 1-(t-butoxycarbonyl)-4-(fur-2-ylmethyl-1H-benzimidazol-2-yl)[1,4]diazepane (0.6 g, 1.5 mmol) and dioxane (10 mL). Add a solution of hydrochloric acid in dioxane (6 mL, 4 M). After 1 hour, add diethyl ether (50 mL) to give a solid. Collect the solid by filtration and dry to give 4-(fur-2-ylmethyl-1H-benzimidazol-2-yl)[1,4]diazepane hydrochloric acid salt: 219-221° C.

reactant | 1-(t-butoxycarbonyl)-4-(fur-2-ylmethyl-1H-benzimidazol-2-yl)[1,4]diazepane | 1.5 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC=1OC=CC1)C=CC=C2 | C22H28N4O3
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | dioxane | 4 M, 6 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(fur-2-ylmethyl-1H-benzimidazol-2-yl)[1,4]diazepane hydrochloric acid salt | Cl.O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C17H20N4O.ClH/c1-2-7-16-15(6-1)19-17(20-10-4-8-18-9-11-20)21(16)13-14-5-3-12-22-14;/h1-3,5-7,12,18H,4,8-11,13H2;1H
